US07615562B2
[4-(1H-Pyrrolo[2,3-b]pyridin-3-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared as described in Example 215, starting from 1-(tert-butyl-dimethyl-silanyl)-1H-pyrrolo[2,3-b]pyridine (prepared by TBDMS protection of 1H-pyrrolo[2,3-b]pyridine) and (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, followed by in situ cleavage of the TBDMS protecting group with catalytic amounts of TBAF.

reactant | 1-(tert-butyl-dimethyl-silanyl)-1H-pyrrolo[2,3-b]pyridine | C(C)(C)(C)[Si](N1C=CC=2C1=NC=CC2)(C)C | C13H20N2Si
reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | [4-(1H-Pyrrolo[2,3-b]pyridin-3-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | N1C=C(C=2C1=NC=CC2)C2=NC(=NC=C2)NC2CC(NC(C2)(C)C)(C)C | C20H26N6
